US04624955
6-Ethyl-3-(3-methoxyphenyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine
Five grams of 4-chloro-1-ethyl-5-(3-methoxybenzoyl)-1H-pyrazolo[3,4-b]pyridine was refluxed for 2 hours in 500 ml of acetic acid containing 15 g of hydroxylamine hydrochloride and 1 g of p-toluenesulfonic acid monohydrate. At the end of this time the reaction mixture was poured into water and extracted with dichloromethane. The organic phase was washed well with water, dried, evaporated and chromatographed over 230-400 mesh silica gel. The appropriate fractions were combined and evaporated to give 3.05 g of product, mp 170°-171°. After recrystallization from water it had mp 169°-171° C.

reactant | 4-chloro-1-ethyl-5-(3-methoxybenzoyl)-1H-pyrazolo[3,4-b]pyridine | Five grams | ClC1=C2C(=NC=C1C(C1=CC(=CC=C1)OC)=O)N(N=C2)CC | C16H14ClN3O2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | p-toluenesulfonic acid monohydrate | 1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | acetic acid | 500 ml, 15 g | C(C)(=O)O | C2H4O2
product | 6-Ethyl-3-(3-methoxyphenyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine | 3.05 g | C(C)N1N=CC2=C1N=CC=1C2=NOC1C1=CC(=CC=C1)OC | C16H14N4O2
